US05747517
Preparation of 5-[[4-[(3-phenylphenyl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone
Under a nitrogen atmosphere in a round bottom flask 4-[(3-phenylphenyl)methoxy]benzaldehyde (3.2 g, 10 mmol) was dissolved in acetic acid. To this solution, while stirring, were added sodium acetate (2.87 g, 35 mmol) and rhodanine (1.33 g, 10 mmol). This mixture was heated to reflux and maintained at this temperature. The progress of this reaction was monitored by thin layer chromatography.

reactant | 4-[(3-phenylphenyl)methoxy]benzaldehyde | 10 mmol, 3.2 g | C1(=CC=CC=C1)C=1C=C(C=CC1)COC1=CC=C(C=O)C=C1 | C20H16O2
reactant | sodium acetate | 35 mmol, 2.87 g | C(C)(=O)[O-].[Na+]
reactant | rhodanine | 10 mmol, 1.33 g | S1C(=S)NC(=O)C1 | C3H3NOS2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-[[4-[(3-phenylphenyl)methoxy]phenyl]methylene]-2-thioxo-4-thiazolidinone | C1(=CC=CC=C1)C=1C=C(C=CC1)COC1=CC=C(C=C1)C=C1C(NC(S1)=S)=O | C23H17NO2S2
